US06734179B2
To a solution of 0.39 g (0.73 mMol) of 4-{2-[(2-chloro-6-methoxy-pyridine-4-carbonyl)-amino]-4-methoxy-benzothiazol-7-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester in 16.0 ml of methanol and 16.0 ml THF 100 mg of Pd/C (10%) and 0.15 ml triethyl amine were added. The reaction mixture was hydrogenated at 60° C. for 6 h, then filtered and evaporated to dryness in vacuo. The residue was subjected to column chromatography (ethyl acetate/hexane 1:1) to yield 0.110 g (30%) 4-{4-methoxy-2-[(2-methoxy-pyridine-4-carbonyl)-amino]-benzothiazol-7-yl}-piperidine-1-carboxylic acid tert-butyl ester as a white foam. ES-MS m/e (%): 499 ([M+H]+, 100).

reactant | 4-{2-[(2-chloro-6-methoxy-pyridine-4-carbonyl)-amino]-4-methoxy-benzothiazol-7-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.73 mMol, 0.39 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=C(C=2N=C(SC21)NC(=O)C2=CC(=NC(=C2)OC)Cl)OC | C25H27ClN4O5S
reactant | THF | 16.0 ml, 100 mg | C1CCOC1 | C4H8O
reactant | triethyl amine | 0.15 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 16.0 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 4-{4-methoxy-2-[(2-methoxy-pyridine-4-carbonyl)-amino]-benzothiazol-7-yl}-piperidine-1-carboxylic acid tert-butyl ester | 0.110 g, 30% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=2N=C(SC21)NC(=O)C2=CC(=NC=C2)OC)OC | C25H30N4O5S
